US05891909
c) 3-[3-(5-Isoquinolinylsulfonyloxy)-5-methylphenoxy]propanol
To a solution of 3-(5-isoquinolinylsulfonyloxy)-5-methylphenol (630 mg, 2.0 mmol), as prepared in the preceding step, tri-n-butylphosphine (607 mg, 3.0 mmol) and 1,3-propanediol (760 mg, 10 mmol) in anhydrous tetrahydrofuran (20 mL) was added 1,1'-(azodicarbonyl)dipiperidine (757 mg, 3.0 mmol). The mixture was stirred at ambient temperature overnight. Hexane (30 mL) was added to the mixture and the precipitates were removed by filtration. The filtrate was evaporated in vacuo, and the residue was purified by flash column chromatography (4:1 ethyl acetate/dichloromethane) to give the title compound as a colorless oil (620 mg, 82%). 1H-NMR (300 MHz, CDCl3) δ 9.41 (s, 1H), 8.80 (d, J=6.1 Hz, 1H), 8.54 (d, J=6.1 Hz, 1H), 8.33 (d, J=7.2 Hz, 1H), 8.29 (d, J=7.6 Hz, 1H), 7.67 (t, J=7.7 Hz, 1H), 6.56 (s, 1H), 6.29 (s, 1H), 6.24 (s, 1H), 3.89 (t, J=6.1 Hz, 2H), 3.75 (t, J=6.0 Hz, 2H), 2.16 (s, 3H), 2.05 (m, 2H), 1.90 (br s, 1H).

reactant | 3-(5-isoquinolinylsulfonyloxy)-5-methylphenol | 2.0 mmol, 630 mg | C1=NC=CC2=C(C=CC=C12)S(=O)(=O)OC=1C=C(C=C(C1)C)O | C16H13NO4S
reactant | tri-n-butylphosphine | 3.0 mmol, 607 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,3-propanediol | 10 mmol, 760 mg | C(CCO)O | C3H8O2
reactant | 1,1'-(azodicarbonyl)dipiperidine | 3.0 mmol, 757 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | Hexane | 30 mL | CCCCCC | C6H14
product | 3-[3-(5-Isoquinolinylsulfonyloxy)-5-methylphenoxy]propanol | 620 mg, 82% | C1=NC=CC2=C(C=CC=C12)S(=O)(=O)OC=1C=C(OCCCO)C=C(C1)C | C19H19NO5S
